US09388153B2
Ethyl iodide (45 mg, 0.286 mmol) and potassium carbonate (8 mg, 0.057 mmol) were added to a solution of isopropyl 2-(3-((6-(3-fluorophenyl)-2,3-dihydro-1H-inden-1-yl)amino)phenoxy)acetate (12 mg, 0.029 mmol) and acetonitrile (2 mL) in a 50 mL round bottom flask at room temperature. The mixture was then heated to reflux and allowed to stir overnight. The solution was quenched with saturated ammonium chloride (5 mL) and extracted with ethyl acetate (50 mL). The combined organic extracts were dried (Na2SO4), filtered and concentrated. The resulting crude residue was purified by preparative TLC (1000 mm thickness, 50% ethyl acetate/hexanes) to afford 7 mg (55%) of isopropyl 2-(3-(ethyl(6-(3-fluorophenyl)-2,3-dihydro-1H-inden-1-yl)amino)phenoxy)acetate.

reactant | Ethyl iodide | 0.286 mmol, 45 mg | C(C)I | C2H5I
reactant | potassium carbonate | 0.057 mmol, 8 mg | C([O-])([O-])=O.[K+].[K+]
reactant | isopropyl 2-(3-((6-(3-fluorophenyl)-2,3-dihydro-1H-inden-1-yl)amino)phenoxy)acetate | 0.029 mmol, 12 mg | FC=1C=C(C=CC1)C1=CC=C2CCC(C2=C1)NC=1C=C(OCC(=O)OC(C)C)C=CC1 | C26H26FNO3
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | isopropyl 2-(3-(ethyl(6-(3-fluorophenyl)-2,3-dihydro-1H-inden-1-yl)amino)phenoxy)acetate | 7 mg, 55% | C(C)N(C=1C=C(OCC(=O)OC(C)C)C=CC1)C1CCC2=CC=C(C=C12)C1=CC(=CC=C1)F | C28H30FNO3
